US05025025
Methyl 1-allyl-2-oxocyclopentane-1-carboxylate (1.1 Kg) is added to 1,100 mL of methanol previously saturated with ammonia gas at ice bath temperature. The reaction mixture is stirred first at ice bath temperature and then at room temperature overnight with constant introduction of ammonia. The reaction mixture is evaporated to dryness to yield starting material and a mixture of 5-carbomethoxyoct-7-enoic acid amide and methyl 5-carbomethoxy-oct-7enoate. The residue is distilled under reduced pressure to yield a mixture of the diester and ester amide. A portion (25 g) is added dropwise over 40 minutes to 23.6 g of thionyl chloride and the mixture is heated at 80° for 30 minutes. The reaction mixture is evaporated to dryness under water vacuum and then distilled under high vacuum to yield 5-carbomethoxy-oct-7-enenitrile.

reactant | Methyl 1-allyl-2-oxocyclopentane-1-carboxylate | 1.1 Kg | C(C=C)C1(C(CCC1)=O)C(=O)OC | C10H14O3
reactant | ammonia | N | H3N
reactant | 5-carbomethoxyoct-7-enoic acid amide | C(=O)(OC)C(CCCC(=O)N)CC=C | C10H17NO3
reactant | methyl 5-carbomethoxy-oct-7enoate | C(=O)(OC)C(CCCC(=O)OC)CC=C | C11H18O4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | methanol | 1,100 mL | CO | CH4O
product | 5-carbomethoxy-oct-7-enenitrile | C(=O)(OC)C(CCCC#N)CC=C | C10H15NO2
